US04761410
A solution of benzhydryl 7-[2-(2-tritylaminothiazol-4-yl)-2-difluoromethoxyiminoacetamido]-3-(1-methyl-1-pyrrolidiniomethyl)-3-cephem-4-carboxylate trifluoroacetate (syn isomer) (1.25 g) in methylene chloride (4 ml) was stirred at 0°-5° C., and anisole (2.6 ml) and trifluoroacetic acid (5.2 ml) were added thereto. The mixture was stirred for one hour at 0°-5° C. To the reaction mixture was added diisopropyl ether, and the resultant precipitates were collected by filtration, washed with diisopropyl ether and dissolved in water (400 ml). The solution was subjected to column chromatography on macroporus non-ionic adsorption resin "Diaion HP-20" and the elution was carried out with 30% aqueous solution of methanol. The fractions containing the object compound were collected, concentrated in vacuo and lyophilized to give 7-[2-(2-aminothiazol-4-yl)-2-difluoromethoxyiminoacetamido]-3-(1-methyl-1-pyrrolidiniomethyl)-3-cephem-4-carboxylate (syn isomer) (450 mg).

reactant | benzhydryl 7-[2-(2-tritylaminothiazol-4-yl)-2-difluoromethoxyiminoacetamido]-3-(1-methyl-1-pyrrolidiniomethyl)-3-cephem-4-carboxylate trifluoroacetate | 1.25 g | FC(C(=O)[O-])(F)F.C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C([NH+]2CCCC2)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOC(F)F
reactant | anisole | 2.6 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 5.2 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
product | 7-[2-(2-aminothiazol-4-yl)-2-difluoromethoxyiminoacetamido]-3-(1-methyl-1-pyrrolidiniomethyl)-3-cephem-4-carboxylate | 450 mg | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C([NH+]2CCCC2)C)C(=O)[O-])C1=O)=NOC(F)F | C19H22F2N6O5S2
